US08895761B2
A solution of 3-chloroperbenzoic acid (2.45 g, 0.0142 mol) in dichloromethane (40 ml) is added to a pre-cooled solution (0° C.) of 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethyl-thiopyran-3,5-dione (3.5 g, 0.0095 mol) in dichloromethane (100 ml). The reaction mixture is stirred at 0° C. for one hour and then allowed to come to room temperature. The reaction mixture is stirred at room temperature for one hour, diluted with water (100 ml) and separated. The organic phase is collected, and the aqueous layer is extracted with dichloromethane (2×50 ml). The organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered, and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethyl-1-oxo-dihydrothiopyran-3,5-dione as a white solid (2.0 g).

reactant | 3-chloroperbenzoic acid | 0.0142 mol, 2.45 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethyl-thiopyran-3,5-dione | 0.0095 mol, 3.5 g | BrC1=CC(=C(C=C1)C1C(C(SC(C1=O)(C)C)(C)C)=O)CC | C17H21BrO2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethyl-1-oxo-dihydrothiopyran-3,5-dione | 2.0 g | BrC1=CC(=C(C=C1)C1C(C(S(C(C1=O)(C)C)=O)(C)C)=O)CC | C17H21BrO3S
